US06787562B2
To a stirred mixture of 3-aminomethylpyridine (324 mg) and triethylamine (1.51 g) in dichloromethane (20 ml) at 0° C. was added 4-[2-benzyloxybenzylthio]benzoylchloride in CH2Cl2 (10 ml) (3 mmol). The mixture was allowed to warm to ambient temperature, washed with saturated aqueous NaHCO3 (3×20 ml), dried (MgSO4), filtered and evaporated. The residue was triturated with diethyl ether (20 ml) and crystallised from ethyl acetae to give N-(3-pyridyl)-4-[2-benzyloxybenzylthio]benzamide (220 mg). (mpt. 108° C.).

reactant | 3-aminomethylpyridine | 324 mg | NCC=1C=NC=CC1 | C6H8N2
reactant | triethylamine | 1.51 g | C(C)N(CC)CC | C6H15N
reactant | 4-[2-benzyloxybenzylthio]benzoylchloride | C(C1=CC=CC=C1)OC1=C(CSC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C21H17ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 3 mmol, 10 ml | C(Cl)Cl | CH2Cl2
product | N-(3-pyridyl)-4-[2-benzyloxybenzylthio]benzamide | 220 mg | N1=CC(=CC=C1)NC(C1=CC=C(C=C1)SCC1=C(C=CC=C1)OCC1=CC=CC=C1)=O | C26H22N2O2S
